US07108964B2
Preparation of hexanoic acid, 2-chlorocarbonyl-4-methyl-3-oxo-1-phenyl-pyrazolidin-4-ylmethyl ester [F]
A solution of hexanoic acid, 4-methyl-3-oxo-1-phenyl-pyrazolidin-4-ylmethyl ester (0.74 g, 0.0024 mol) and N,N-diisopropylethylamine (0.36 g, 0.0028 mol) in dichloromethane (8 ml) was added dropwise over 30 min to a stirred solution of a 20% phosgene in toluene solution (1.5 ml, 0.0028 mol) and dichloromethane (8 ml) under an atmosphere of argon. The reaction mixture was cooled using an acetone-solid carbon dioxide bath such that the initial temperature was −30° C. and the reaction remained below −20° C. during the addition. The reaction was stirred for 2 hr at between −30° C. and −20° C. Dilute aqueous hydrochloric acid (8 ml) was added to the cold reaction. The organic layer was washed with saturated aqueous sodium chloride (8 ml), dried over magnesium sulfate, and concentrated in vacuo to give a yellow viscous oil. Analysis was consistent with the desired product. The total yield of product was 0.83 g (96%).

reactant | hexanoic acid, 4-methyl-3-oxo-1-phenyl-pyrazolidin-4-ylmethyl ester | 0.0024 mol, 0.74 g | C(CCCCC)(=O)OCC1(C(NN(C1)C1=CC=CC=C1)=O)C | C17H24N2O3
reactant | N,N-diisopropylethylamine | 0.0028 mol, 0.36 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 0.0028 mol, 1.5 ml | C1(=CC=CC=C1)C | C7H8
reactant | hydrochloric acid | 8 ml | Cl | ClH
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | hexanoic acid, 2-chlorocarbonyl-4-methyl-3-oxo-1-phenyl-pyrazolidin-4-ylmethyl ester | C(CCCCC)(=O)OCC1(C(N(N(C1)C1=CC=CC=C1)C(=O)Cl)=O)C | C18H23ClN2O4
